US04168269
A reaction mixture comprising 106 g. of 4,5-dichloro-o-phenylenediamine and 96 g. of tetrahydro-4-oxo-3-thiophene carboxylic acid, methyl ester in 4 liters of benzene is refluxed for 5 hours and then cooled overnight. The benzene is removed by distillation and replaced by toluene. The mixture is refluxed 2 hours, 10 ml. of water and 0.5 ml. of acetic acid are added and the mixture is refluxed overnight, cooled to room temperature and filtered. The solid is washed with three 100 ml. portions of toluene and air dried giving 6,7-dichloro-1,3,4,9-tetrahydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one.

reactant | 4,5-dichloro-o-phenylenediamine | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | tetrahydro-4-oxo-3-thiophene carboxylic acid, methyl ester | O=C1C(CSC1)C(=O)OC | C6H8O3S
solvent | benzene | 4 liters | C1=CC=CC=C1 | C6H6
product | 6,7-dichloro-1,3,4,9-tetrahydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | ClC1=CC2=C(NC(C3=C(N2)CSC3)=O)C=C1Cl | C11H8Cl2N2OS
